US04395411
To a solution of ethyl 2-(4-amino-6-chloropyrimidin-2-yl)acetate (21.5 g) in methanol (200 ml) was added a solution of sodium metal (7.25 g) in methanol (130 ml) and the mixture was refluxed for 3.5 hours. The reaction mixture was cooled in an ice-salt bath and saturated with dry hydrogen chloride and then allowed to stand overnight at ambient temperature. The mixture was evaporated to dryness and the residue was dissolved in a mixture of ethyl acetate and a cold aqueous solution of sodium bicarbonate. The organic layer was separated out, washed with water, dried over anhydrous magnesium sulfate and and evaporated to give methyl 2-(4-amino-6-methoxypyrimidin-2-yl)acetate (14.2 g), mp 91°-94° C.

reactant | ethyl 2-(4-amino-6-chloropyrimidin-2-yl)acetate | 21.5 g | NC1=NC(=NC(=C1)Cl)CC(=O)OCC | C8H10ClN3O2
reactant | sodium | 7.25 g | [Na] | Na
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 200 ml | CO | CH4O
reactant | methanol | 130 ml | CO | CH4O
product | methyl 2-(4-amino-6-methoxypyrimidin-2-yl)acetate | 14.2 g | NC1=NC(=NC(=C1)OC)CC(=O)OC | C8H11N3O3
